US06992087B2
Preparation of benzyl (cis)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-[(4-nitrobenzoyl)oxy]pyrrolidine-1-carboxylate
To a solution of benzyl (trans)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-hydroxypyrrolidine-1-carboxylate (2.93 g) in tetrahydrofuran (100 ml) was added p-nitrobenzoic acid (1.89 g), triphenyl phosphine (2.23 g) and di-tert-butyl azodicarboxylate (1.95 g). The reaction mixture was heated at 40° C. for 18 h and was poured into saturated sodium bicarbonate (200 ml). The aqueous layer was extracted with ethyl acetate (2×200 ml), dried MgSO4, filtered and concentrated. MPLC chromatography on a biotage 40 M column with 15-20% ethyl acetate/heptane provided the title compound as an oil (3.19 g, 84%): 1H NMR (400 MHz, CDCl3) δ) 8.35, 8.20, 7.49-7.22, 6.23, 5.81, 5.32, 5.20, 5.05, 4.83, 4.27, 3.95-3.85, 3.51, 2.58-2.41, 1.63, 1.32-1.14; (MS/CI) calcd for C33H31Cl2N5O3+H 664.5, found 664.1.

reactant | benzyl (trans)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-hydroxypyrrolidine-1-carboxylate | 2.93 g | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@H]1O)C(=O)OCC1=CC=CC=C1)CC | C26H28Cl2N4O3
reactant | p-nitrobenzoic acid | 1.89 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | triphenyl phosphine | 2.23 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 1.95 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | sodium bicarbonate | 200 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | benzyl (cis)-3-{[5-(2,4-dichlorophenyl)-3,6-diethylpyrazin-2-yl]amino}-4-[(4-nitrobenzoyl)oxy]pyrrolidine-1-carboxylate | 3.19 g, 84% | ClC1=C(C=CC(=C1)Cl)C=1N=C(C(=NC1CC)N[C@@H]1CN(C[C@@H]1OC(C1=CC=C(C=C1)[N+](=O)[O-])=O)C(=O)OCC1=CC=CC=C1)CC | C33H31Cl2N5O6
